US04243682
2-[2-(4-Fluoro-6-methoxy-2-naphthyl)-ethyl]-2-methyl-1,3-dioxolane
4-(4-Fluoro-6-methoxy-2-naphthyl)butan-2-one (4.2 g), ethane-1,2-diol (30 ml) and toluene-4-sulphonic acid (0.2 g) were heated under reflux in benzene for 18 hours with continuous removal of water by means of a Dean-Stark trap. The solution was then cooled to room temperature and sodium hydrogen carbonate solution was added. The aqueous layer was washed with ether. The combined organic layers were washed with water and dried over anhydrous sodium sulphate. Evaporation of the solvent under reduced pressure gave a crude product which was dissolved in 60-80 petroleum ether. The precipitated impurities were removed by filtration and the solvent was removed under reduced pressure to give a yellow oil which was triturated with cold 40-60 petroleum ether to give the title compound as pale yellow crystals (2.6 g., 53%; m.p. 51°-53°).

reactant | 4-(4-Fluoro-6-methoxy-2-naphthyl)butan-2-one | 4.2 g | FC1=CC(=CC2=CC=C(C=C12)OC)CCC(C)=O | C15H15FO2
reactant | ethane-1,2-diol | 30 ml | C(CO)O | C2H6O2
reactant | toluene-4-sulphonic acid | 0.2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | 2-[2-(4-Fluoro-6-methoxy-2-naphthyl)-ethyl]-2-methyl-1,3-dioxolane | 2.6 g, 53% | FC1=CC(=CC2=CC=C(C=C12)OC)CCC1(OCCO1)C | C17H19FO3
